US04045433
6 ml. of ethyl formate are added to a solution of 1.4 g. (5 mmoles) of 1-methyl-5-phenyl-7-chloro-1,3,4,5-tetrahydro-2H-1,4-benzodiazepine-2-one in 5 ml. of chlorobenzene, and the reaction mixture is maintained at the boiling point of the solvent for 3 hours. Thereafter the solvent is evaporated under reduced pressure, and the oily residue is solidified by treating it with 20 ml. of dry ether. 108 g. (68.6 %) of 1-methyl-4-formyl-5-phenyl-7-chloro-1,3,4,5-tetrahydro-2H-1,4-benzodiazepine-2-one are obtained; m.p.: 167°-169° C. The melting point does not change after recrystallization from ethanol. Rf2 = 0.5.

reactant | ethyl formate | C(=O)OCC | C3H6O2
reactant | 1-methyl-5-phenyl-7-chloro-1,3,4,5-tetrahydro-2H-1,4-benzodiazepine-2-one | 5 mmoles | CN1C(CNC(C2=C1C=CC(=C2)Cl)C2=CC=CC=C2)=O | C16H15ClN2O
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 1-methyl-4-formyl-5-phenyl-7-chloro-1,3,4,5-tetrahydro-2H-1,4-benzodiazepine-2-one | 68.6 % | CN1C(CN(C(C2=C1C=CC(=C2)Cl)C2=CC=CC=C2)C=O)=O | C17H15ClN2O2
